US08304036B2
7.6 ml (44.4 mmol) of TMP are initially introduced at −20° C. in THF, and 26.7 ml (42.4 mmol, 15% soln. in hexane) of n-BuLi are metered in. After 25 min at this temperature, a solution of 11.7 g (38.6 mmol) of 2-(4-ethoxy-2,3-difluorophenyl)selenophene in 80 ml of THF is added. When the addition is complete, the batch is warmed to RT over the course of 45 min and left at this temperature for 20 min. The solution is cooled to −40° C., and N-formylmorpholine is added. The reaction mixture is warmed to RT and stirred for 4.5 h. The solution is diluted with a lot of dichloromethane, and 2 N hydrochloric acid is added. The mixture is briefly stirred vigorously, and the organic phase is separated off. The aqueous phase is extracted with dichloromethane, and the combined organic phases are washed with water. The solution is dried using sodium sulfate and concentrated to dryness. The residue is digested in cold ethanol, and the solid is filtered off with suction. Drying in vacuo gives 5-(4-ethoxy-2,3-difluorophenyl)selenophene-2-carbaldehyde as a violet solid.

reactant | n-BuLi | 42.4 mmol, 26.7 ml | [Li]CCCC
reactant | 2-(4-ethoxy-2,3-difluorophenyl)selenophene | 38.6 mmol, 11.7 g | C(C)OC1=C(C(=C(C=C1)C=1[Se]C=CC1)F)F | C12H10F2OSe
reactant | N-formylmorpholine | C(=O)N1CCOCC1 | C5H9NO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2 N | Cl | ClH
product | 5-(4-ethoxy-2,3-difluorophenyl)selenophene-2-carbaldehyde | C(C)OC1=C(C(=C(C=C1)C1=CC=C([Se]1)C=O)F)F | C13H10F2O2Se
